US05252594
4-(4-Chlorophenyl)-2-penyl-2-[(1,2,4-triazol-1-yl)methyl]-1-butylamine
A slurry of 18 g (0.45 mole) of lithium aluminum hydride in 1000 mL of dry tetrahydrofuran was cooled to 5° C. while stirring under nitrogen. To the slurry was added alpha-(2-(4-chlorophenyl)ethyl)-alpha-phenyl-1H-1,2,4-triazole-1-propanenitrile in 2000 mL of dry tetrahydrofuran over 3 hours. The reaction was kept at 5°-10° C. during the addition then allowed to warm to room temperature and stirred overnight. The reaction was cooled in an ice bath and quenched with the slow addition of sodium sulfate. The solvent was removed and the residue was extracted with ethyl acetate and washed with 1000 mL water and 1000 mL brine. After drying, and removal of the solvent, 137 g (89.5% yield) of a very viscous oil resulted.

reactant | lithium aluminum hydride | 0.45 mole, 18 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | alpha-(2-(4-chlorophenyl)ethyl)-alpha-phenyl-1H-1,2,4-triazole-1-propanenitrile | ClC1=CC=C(C=C1)CCC(C#N)(CN1N=CN=C1)C1=CC=CC=C1 | C19H17ClN4
solvent | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2000 mL | O1CCCC1 | C4H8O
product | 4-(4-Chlorophenyl)-2-penyl-2-[(1,2,4-triazol-1-yl)methyl]-1-butylamine | 89.5% yield | ClC1=CC=C(C=C1)CCC(CN)(CN1N=CN=C1)C1=CC=CC=C1 | C19H21ClN4
